US06642229B2
4-Ethoxy-2-oxobut-3-enoic acid methyl ester was condensed with 2-aminoimidazole hemisulfate as described in Example 1 to give imidazo[1,2-a]pyrimidine-7-carboxylic acid methyl ester as an orange solid: δH (400 MHz, CDCl3) 4.05 (3H, s), 7.68 (1H, d, J 7), 7.72 (1H, d, J 1), 8.06 (1H, d, J 1), 8.59 (1H, d, J 7).

reactant | 4-Ethoxy-2-oxobut-3-enoic acid methyl ester | COC(C(C=COCC)=O)=O | C7H10O4
reactant | 2-aminoimidazole hemisulfate | S(=O)(=O)(O)O.NC=1NC=CN1.NC=1NC=CN1
product | imidazo[1,2-a]pyrimidine-7-carboxylic acid methyl ester | COC(=O)C1=NC=2N(C=C1)C=CN2 | C8H7N3O2
